US06211234B1
A mixture of 2,4-dibenzyloxybenzaldehyde (1 g), methyl cyanoacetate (0.27 mL), piperidine (0.1 mL) and ethanol (30 mL) is stirred at ambient temperature for 20 minutes and the solvent is removed under reduced pressure. The residue is recrystallized from ethanol to give methyl (E)-3-(2,4-dibenzyloxyphenyl)-2-cyanoacrylate as a yellow solid (400 mg).

reactant | 2,4-dibenzyloxybenzaldehyde | 1 g | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1)OCC1=CC=CC=C1 | C21H18O3
reactant | methyl cyanoacetate | 0.27 mL | C(#N)CC(=O)OC | C4H5NO2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | methyl (E)-3-(2,4-dibenzyloxyphenyl)-2-cyanoacrylate | 400 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)/C=C(/C(=O)OC)\C#N | C25H21NO4
